US04048311
To a suspension of 21.1 g. (0.05 mol.) of 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid in 500 ml. of dry methylene chloride is added in one portion a solution of 30.0 g. (0.15 mol.) of O-t-butyldiisopropylpseudourea in 50 ml. of methylene chloride. The mixture is stirred at ambient temperature for 24 hours. The precipitate is removed by filtration and the filtrate evaporated to a residue which is taken up in 200 ml. of benzene and filtered again. The filtrate is extracted with three 100 ml. portions of cold 1N hydrochloric acid. The acidic aqueous extracts are layered with ethyl acetate and the pH adjusted to 7.5 with solid sodium bicarbonate. The organic layer is separated and the aqueous phase is extracted with two 150 ml. portions of ethyl acetate. The combined extracts are dried (MgSO4), filtered and evaporated to give 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester.

reactant | 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 0.05 mol | NC1[C@@H]2N(C(=C(CS2)C(CCS(N)(=O)=O)SC2=NN=NN2)C(=O)O)C1=O | C11H15N7O5S3
reactant | O-t-butyldiisopropylpseudourea | 0.15 mol | C(C)(C)(C)OC(N(C(C)C)C(C)C)=N | C11H24N2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-amino-3-[1-(2-sulfamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C(CCS(N)(=O)=O)SC2=NN=NN2 | C15H23N7O5S3
